US07465731B2
To a solution of (2E)-3-(5-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride (1.00 g) in water (10 mL) was added saturated NaHCO3 at 4° C. (to pH 7-8). The mixture was extracted with CHCl3 three times. The conbined organic layer was dried over Na2SO4, filtered, and evaporated in vacuo to give (2E)-3-(5-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide (796 mg).

reactant | (2E)-3-(5-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride | 1.00 g | Cl.Cl.C(C1=CC=CC=C1)N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
product | (2E)-3-(5-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide | 796 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NO | C18H21N5O2
